US07495018B2
2-bromo-1-(3-methylphenyl)-2-(2-methyl-4-pyridyl)ethanone hydrobromide
1-(3-methylphenyl)-2-(2-methyl-4-pyridyl)ethanone (150 g) was dissolved in acetic acid (450 mL), bromine (34.3 mL) was added to this, and the mixture was stirred for 3 hours at 70° C. The reaction solution was cooled by ice water, and the deposited crystal was filtrated off. The crystal was washed with ethyl acetate to obtain a title compound (168 g, yield 66%).

reactant | 1-(3-methylphenyl)-2-(2-methyl-4-pyridyl)ethanone | 150 g | CC=1C=C(C=CC1)C(CC1=CC(=NC=C1)C)=O | C15H15NO
reactant | bromine | 34.3 mL | BrBr | Br2
solvent | acetic acid | 450 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-1-(3-methylphenyl)-2-(2-methyl-4-pyridyl)ethanone hydrobromide | 168 g, yield 66% | Br.BrC(C(=O)C1=CC(=CC=C1)C)C1=CC(=NC=C1)C | InChI=1S/C15H14BrNO.BrH/c1-10-4-3-5-13(8-10)15(18)14(16)12-6-7-17-11(2)9-12;/h3-9,14H,1-2H3;1H
